US09403801B2
Step 2) 5-chloro-N2-(1-methyl-1H-imidazol-4-yl)-N4-(octahydrocyclopenta[c]pyrrol-5-yl)pyrimidine-2,4-diamine
To a solution of tert-butyl 5-((5-chloro-2-((1-methyl-1H-imidazol-4-yl)amino)pyrimidin-4-yl)amino)hexahydrocyclopenta[c]pyrrole-2(1H)-carboxylate (398.3 mg, 0.92 mmol) in DCM (10 mL) was added a solution of HCl in EtOAc (10 mL, 40 mmol). The reaction mixture was stirred at rt for 1 h and concentrated in vacuo. The residue was dissolved in water (30 mL) and adjusted to pH=10 with a saturated Na2CO3 aqueous solution, then extracted with DCM (100 mL×3). The combined organic phases were washed with brine (100 mL), dried over anhydrous Na2SO4, filtered and concentrated in vacuo. The residue was purified by silica gel column chromatography (MeOH/DCM (v/v)=1/10) to give the title compound as a beige solid (0.29 mg, 95%).

reactant | tert-butyl 5-((5-chloro-2-((1-methyl-1H-imidazol-4-yl)amino)pyrimidin-4-yl)amino)hexahydrocyclopenta[c]pyrrole-2(1H)-carboxylate | 0.92 mmol, 398.3 mg | ClC=1C(=NC(=NC1)NC=1N=CN(C1)C)NC1CC2C(CN(C2)C(=O)OC(C)(C)C)C1 | C20H28ClN7O2
reactant | HCl | Cl | ClH
reactant | EtOAc | 40 mmol, 10 mL | CCOC(=O)C | C4H8O2
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | 5-chloro-N2-(1-methyl-1H-imidazol-4-yl)-N4-(octahydrocyclopenta[c]pyrrol-5-yl)pyrimidine-2,4-diamine | 0.29 mg, 95% | ClC=1C(=NC(=NC1)NC=1N=CN(C1)C)NC1CC2C(CNC2)C1 | C15H20ClN7
